US07041685B2
2-(3-Chloro-thiophen-2-yl)-5-(4-methoxy-phenyl)-oxazole
3-Choloro-thiophene-2-carboxylic acid-[2-(4-methoxy-phenyl)-2-oxo-ethyl]-amide: The title compound was prepared from 3-chloro-thiophene-2-carbonyl chloride and 2-amino-4′-methoxyacetophenone by a procedure similar to Example 93a as an orange solid. 1H NMR (DMSO-d6): 8.30 (s, NH), 8.02 (d, J=9.0 Hz, 1H), 7.89 (d, J=6.6 Hz, 2H), 7.20 (d, J=6.0 Hz, 2H), 7.10 (d, J=8.7 Hz, 1H), 4.80 (d, J=5.4 Hz, 2H), 3.86 (s, 3H).

reactant | 3-chloro-thiophene-2-carbonyl chloride | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
reactant | 2-amino-4′-methoxyacetophenone | NCC(=O)C1=CC=C(C=C1)OC | C9H11NO2
product | 2-(3-Chloro-thiophen-2-yl)-5-(4-methoxy-phenyl)-oxazole | ClC1=C(SC=C1)C=1OC(=CN1)C1=CC=C(C=C1)OC | C14H10ClNO2S
